US06352993B1
Step 2: 5,6-dimethyl-2-(4-fluorophenylamino)-4-(7-methoxy- 1-methyl-1,2, 3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride
After 4-fluoroaniline(0.32 ml, 3.3 mmol) and triethylamine(0.46 ml, 3.3 mmol) were added to a solution of 5,6-dimethyl-2-chloro-4-(7-methoxy-1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine(0.7 g, 2.2 mmol) in dimethylformamide(5 ml), 0.55 g of the titled compound was obtained in accordance with the same procedure as in Step 2 of Example 25.

reactant | 4-fluoroaniline | 3.3 mmol, 0.32 ml | FC1=CC=C(N)C=C1 | C6H6FN
reactant | triethylamine | 3.3 mmol, 0.46 ml | C(C)N(CC)CC | C6H15N
reactant | 5,6-dimethyl-2-chloro-4-(7-methoxy-1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine | 2.2 mmol, 0.7 g | CC=1C(=NC(=NC1C)Cl)N1C(C2=CC(=CC=C2CC1)OC)C | C17H20ClN3O
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 5,6-dimethyl-2-(4-fluorophenylamino)-4-(7-methoxy- 1-methyl-1,2, 3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride | 0.55 g, Yield: 58.6% | Cl.CC=1C(=NC(=NC1C)NC1=CC=C(C=C1)F)N1C(C2=CC(=CC=C2CC1)OC)C | InChI=1S/C23H25FN4O.ClH/c1-14-15(2)25-23(26-19-8-6-18(24)7-9-19)27-22(14)28-12-11-17-5-10-20(29-4)13-21(17)16(28)3;/h5-10,13,16H,11-12H2,1-4H3,(H,25,26,27);1H
